data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][N+:21]1(CCN(CC1)C2=C(C=C(C=C2)C(=O)C)F)C(C3=C(C=CC(=C3)[N+](=O)[O-])F)([O-])Cl.CC[N:10](CC)CC.C1COCCO1>>[H:20][N+:10](CC)(CC)CC.CC(=O)C1=CC(=C(C=C1)N2CC[N:21](CC2)C(C3=C(C=CC(=C3)[N+](=O)[O-])F)([O-])Cl)F.C1COCCO1 10=20;20,21=21
CC[C:11]#[C:10]CC(C)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>CC[C+:11]=[C:10]1CC(C[N:21]([CH2:20]1)CC2=CC=CC=C2)C 10,11=10,20;20,21=21
[H:20][O:21]C.CC1(OC(C(O1)C(C=O)OCC2=CC=CC=C2)C(C[O-:10])OCC3=CC=CC=C3)C.B.C(=O)(C(F)(F)F)[O-].[Na+]>>[H:20][O:10]CC(C1C(OC(O1)(C)C)C(C=O)OCC2=CC=CC=C2)OCC3=CC=CC=C3.C[O-:21].B.C(=O)(C(F)(F)F)[O-].[Na+] 10=20;20,21=21
[H:20][O+:21]=C(CCCCO)OC.[Cl-:10]>>[H:20][Cl:10].COC(=[O:21])CCCCO 10=20;20,21=21
[H:20][C:21]#N.C(C#N)C(N=C(N)N)[OH:10]>>[H:20][OH+:10]C(CC#N)N=C(N)N.[C-:21]#N 10=20;20,21=21
C[C:11]#[C:10]CC(CC(C)C)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>C[C+:11]=[C:10]1CC(C[N:21]([CH2:20]1)CC2=CC=CC=C2)CC(C)C 10,11=10,20;20,21=21
[H:20][O+:21]=C(C)C.OS(=O)(=O)[O-:10].C1=CC=C(C=C1)O>>[H:20][O:10]S(=O)(=O)O.CC(=[O:21])C.C1=CC=C(C=C1)O 10=20;20,21=21
C1[CH2:20][O:21]1.[CH-:10](C#N)C#N>>[CH2:20](C[O-:21])[CH:10](C#N)C#N 10=20;20,21=21
CCO[C:20](=[O:21])C(CCCCC(=O)[O-])CCC=C.[OH-:10]>>CCO[C:20](C(CCCCC(=O)[O-])CCC=C)([OH:10])[O-:21] 10=20;20,21=21
[H:20][Br:21].C1CC(=O)N(C1=[O:10])Br>>[H:20][O+:10]=C1CCC(=O)N1Br.[Br-:21] 10=20;20,21=21
CCOC(=O)C[N-][N+:21]#[N:20].C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.O>>CCOC(=O)C[N-][N:21]=[N:20][P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.O 10=20;20,21=21
[H:20][OH2+:21].CCC(C)C1=C2CN3C(=CC4=C(C3=O)COC(=[O:10])C4(CC)O)C2=NC5=C1C=C(C=C5)CCCC(C)C>>[H:20][O+:10]=C1C(C2=C(CO1)C(=O)N3CC4=C(C5=C(C=CC(=C5)CCCC(C)C)N=C4C3=C2)C(C)CC)(CC)O.[OH2:21] 10=20;20,21=21
CC(C(=O)NC(CCO)C(=O)[O-])N[C:20]([O-:10])(OCC1C2=C(C=CC=C2)C3=CC=CC=C13)[O:21]N4C(=O)CCC4=O>>CC(C(=O)NC(CCO)C(=O)[O-])N[C:20](=[O:10])OCC1C2=C(C=CC=C2)C3=CC=CC=C13.C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21
C[C:20](C)([C-:10]1C=CC=C1)[OH:21]>>C[C:20](=[C:10]1C=CC=C1)C.[OH-:21] 10=20;20,21=21
[H:20][CH:21]([C:22](=[N+:23](C)CC1=CC=CC=C1)C)C(=O)OC.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C[C:22](=[CH:21]C(=O)OC)[N:23](C)CC1=CC=CC=C1.O 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(C)(C)C1C(O1)C(C(=C)C)OS(=O)(=O)C.CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.CC(=C)C(C1C(O1)C(C)(C)[O-:21])OS(=O)(=O)C 10=20;20,21=21
CCC(C)C1=C2CN3C(=CC4=C(C3=O)C[OH+:21][C:20](C4(CC)O)(O)[OH:10])C2=NC5=C1C=C(C=C5)CCCC(C)C.O>>CCC(C)C1=C2CN3C(=CC(=C(C3=O)C[OH:21])C(CC)([C:20](=[OH+:10])O)O)C2=NC4=C1C=C(C=C4)CCCC(C)C.O 10=20;20,21=21
[H:20][O+:21]=C(C1=CC(=C(C=C1)[NH3+])OC)OC.[OH2:10].CO.OS(=O)(=O)[O-]>>[H:20][OH2+:10].COC1=C(C=CC(=C1)C(=[O:21])OC)[NH3+].CO.OS(=O)(=O)[O-] 10=20;20,21=21
CO[C:13]1=[C:12]([CH:11]=[CH:10]C=C1)Br.[Br:20][Br:21]>>CO[C+:13]1C=C[CH:10]([CH:11]=[C:12]1Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
CC(=O)C[C:20](=[O:21])[N+]1=CC=C(C=C1)N(C)C.C1=CC=C(C=C1)C#CC2(C=CC(=O)C=C2)[O-:10]>>CC(=O)C[C:20]([N+]1=CC=C(C=C1)N(C)C)([O-:21])[O:10]C2(C=CC(=O)C=C2)C#CC3=CC=CC=C3 10=20;20,21=21
[B-:10](CCCC)(CCCC)([O:11]S(=O)(=O)C(F)(F)F)[O+]=C(C)CC.CCN(C(C)C)C(C)C>>[B:10](CCCC)(CCCC)[O+]=C(C)CC.C(F)(F)(F)S(=O)(=O)[O-:11].CCN(C(C)C)C(C)C 10,11=11
[H:20][CH:21](C(C1=CC=CC=C1)O)[C:22](=[O:23])C2=CC=CC=C2.[OH-:10].[Na+]>>[H:20][OH:10].C1=CC=C(C=C1)C([CH:21]=[C:22](C2=CC=CC=C2)[O-:23])O.[Na+] 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].[P:10](Cl)(Cl)Cl>>[H:20][P+:10](Cl)(Cl)Cl.[OH2:21] 10=20;20,21=21
CCC[C:11]#[C:10]CC(CCC)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>CCC[C+:11]=[C:10]1CC(C[N:21]([CH2:20]1)CC2=CC=CC=C2)CCC 10,11=10,20;20,21=21
[H:20][O+:21](C)C(CCC(C)C1CCC2C1(CCC3C2C(CC4C3(CCC(C4)O)C)O)C)(O)O.C[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH+:10]C.CC(CCC(O)(O)[O:21]C)C1CCC2C1(CCC3C2C(CC4C3(CCC(C4)O)C)O)C.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH+:21]C(C)(C)OCCO.[OH2:10]>>[H:20][OH2+:10].CC(C)([OH:21])OCCO 10=20;20,21=21
[H:20][OH2+:21].[CH2:10]=[CH:11]CBr>>[H:20][CH2:10][CH+:11]CBr.[OH2:21] 10,11=10,20;20,21=21
CC1CC2C(C1OCC3=CC=CC=C3)C[C:10]4([C:11]2(C5C=CC(C5C[CH:20]4[O:21]S(=O)(=O)C)(C)C)[O-:12])C.CC(C)(C)O>>CC1CC2C(C1OCC3=CC=CC=C3)C[C:10](=[CH:20]CC4C([C:11]2=[O:12])C=CC4(C)C)C.CS(=O)(=O)[O-:21].CC(C)(C)O 10,11=10,20;20,21=21;12=11
[H:20][O:21]I1(=O)C2=C(C=CC=C2)C(=O)O1.C1=CC2=C(C=C1)I(=[O:10])(OC2=O)O>>[H:20][O+:10]=I1(C2=C(C=CC=C2)C(=O)O1)O.C1=CC2=C(C=C1)I(=O)(OC2=O)[O-:21] 10=20;20,21=21
C[CH+:20]CC[C:11]1=[CH:10]C=CC=C1>>C[CH:20]1CC[C+:11]2[CH:10]1C=CC=C2 10,11=10,20
CC=CC[O-:10].[O:21]=[S:20](Cl)Cl>>CC=CC[O:10][S:20]([O-:21])(Cl)Cl 10=20;20,21=21
CC1=C(S[C:11](=[C:10](C2=CC=CC=C2)O)[N:12]1C)CCO.C1=CSC(=C1)[C:22](=[O:23])[CH:21]=[CH:20]C2=CC=C(C=C2)C#N.CC[NH+](CC)CC.CCO.[I-]>>CC1=C(S[C:11](=[N+:12]1C)[C:10](C2=CC=CC=C2)([CH:20]([CH:21]=[C:22](C3=CC=CS3)[O-:23])C4=CC=C(C=C4)C#N)O)CCO.CC[NH+](CC)CC.CCO.[I-] 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][Cl:21].C1CC([CH:10]=[C:11](C(C1)C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][CH:10]1C(CCCC([C+:11]1C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.[Cl-:21] 10,11=10,20;20,21=21
